US08110687B2
To a solution of 6-{[2-(5-methyl-4,5-dihydro-1H-imidazol-2-yl)pyridin-4-yl]oxy}-N-[3-(2-pyrrolidin-1-ylethoxy)-5-(trifluoromethyl)phenyl]quinoline-3-carboxamide I-218 (0.500 g, 0.83 mmol) in DCM (20 mL) at 0° C. was added Dess-Martin periodinane (0.701 g, 1.65 mmol). The reaction mixture was allowed to stir at 0° C. overnight. Additional Dess-Martin periodinane (0.140 g, 0.32 mmol) was added and the reaction mixture was allowed to warm to rt until reaction was complete. Aq Na2S2O3 was added and the reaction mixture was allowed to stir at rt for 10 min before the addition of sat. aq. NaHCO3. The reaction mixture was extracted with DCM, concentrated, and purified by column chromatography to give 6-{[2-(5-methyl-1H-imidazol-2-yl)pyridin-4-yl]oxy}-N-[3-(2-pyrrolidin-1-ylethoxy)-5-(trifluoromethyl)phenyl]-quinoline-3-carboxamide I-409. 1H NMR (300 MHz, d6-DMSO, HCl salt) δ: 11.21 (s, 1H), 10.67-10.85 (br s, 1H), 9.45 (s, 1H), 9.11 (s, 1H), 8.71 (d, 1H), 8.29 (d, 1H), 8.13 (m, 1H), 8.04 (m, 1H), 7.94-7.91 (br s, 2H), 7.88-7.82 (m, 1H), 4.49-4.40 (m, 2H), 3.67-3.55 (m, 5H), 3.18-3.05 (m, 3H), 2.32 (s, 3H), and 2.08-1.84 (m, 5H). LCMS: (FA) ES+ 603.2, ES− 600.8.

reactant | 6-{[2-(5-methyl-4,5-dihydro-1H-imidazol-2-yl)pyridin-4-yl]oxy}-N-[3-(2-pyrrolidin-1-ylethoxy)-5-(trifluoromethyl)phenyl]quinoline-3-carboxamide | CC1CN=C(N1)C1=NC=CC(=C1)OC=1C=C2C=C(C=NC2=CC1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)OCCN1CCCC1 | C32H31F3N6O3
reactant | Dess-Martin periodinane | 1.65 mmol, 0.701 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 0.32 mmol, 0.140 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-{[2-(5-methyl-1H-imidazol-2-yl)pyridin-4-yl]oxy}-N-[3-(2-pyrrolidin-1-ylethoxy)-5-(trifluoromethyl)phenyl]-quinoline-3-carboxamide | CC1=CN=C(N1)C1=NC=CC(=C1)OC=1C=C2C=C(C=NC2=CC1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)OCCN1CCCC1 | C32H29F3N6O3
